US08710236B2
To (4-tert-butyl-phenyl)-acetic acid (1.15 g, 6.0 mmol) was added 5-formyl-thiophene-2-carboxylic acid methyl ester (1 g, 5.7 mmol), acetic anhydride (3.08 g, 30.2 mmol), and triethyl amine (574 mg, 5.7 mmol). The resulting mixture was stirred at 120° C. for 16 hours and cooled down. Water (1.9 ml) was added. The reaction mixture was heated up to 100° C. for 5 minutes in microwave and cooled down to 23° C. A mixture of acetic acid and water (2.5 ml:2.5 ml) was added. The resulting reaction mixture was stirred at 23° C. for 1 hour. The precipitate was filtered off, washed with 25% aqueous acetic acid, then water. The solid was dried under high vacuum to afford 5-[(E)-2-(4-tert-Butyl-phenyl)-2-carboxy-vinyl]-thiophene-2-carboxylic acid methyl ester as a brownish solid (1.32 g, 67%).

reactant | (4-tert-butyl-phenyl)-acetic acid | 6.0 mmol, 1.15 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=O)O | C12H16O2
reactant | 5-formyl-thiophene-2-carboxylic acid methyl ester | 5.7 mmol, 1 g | COC(=O)C=1SC(=CC1)C=O | C7H6O3S
reactant | acetic anhydride | 30.2 mmol, 3.08 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl amine | 5.7 mmol, 574 mg | C(C)N(CC)CC | C6H15N
solvent | water | 2.5 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | 1.9 ml | O | H2O
product | 5-[(E)-2-(4-tert-Butyl-phenyl)-2-carboxy-vinyl]-thiophene-2-carboxylic acid methyl ester | 1.32 g, 67% | COC(=O)C=1SC(=CC1)\C=C(\C(=O)O)/C1=CC=C(C=C1)C(C)(C)C | C19H20O4S
